Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Compazine / Iodinated 
Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
decreased stool output, abdominal pain

 
Major Surgical or Invasive Procedure:
see discharge summary 

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of ulcerative colitis s/p total colectomy and ileo-anal
pouch as well as ___ drain, who presented to ___ ED for
abdominal pain. At baseline patient has about ___ soft bowel
movements daily, however he started having crampy abdominal pain
a few days prior to admission and decreased stool output, which
is very rare for him. Tried one dose of Flagyl at home but 
didn't
help. Pain is primarily in LLQ, non-radiating, not associated
with anything that he knows of. He is still having bowel
movements and having some gas w/ them but significantly 
decreased
from his baseline. +Nausea and vomiting. No fevers or chills, no
systemic illness symptoms except for abdominal symptoms. 

Upon arrival to ED initial VS T 97.6 HR 72 BP 122/72 RR 16 sat
100% on room air. He received several doses of Zofran and
morphine for nausea and pain control, as well as LR at 150cc/hr.
NGT attempted but patient did not tolerate it and requested it 
be
removed immediately. Colorectal surgery was consulted and
recommended medical admission for evaluation of ileal-anal pouch
as well as symptomatic control. By the time patient reached 
floor
his pain is improved w/ morphine but he still feels like he is
not fully back to his usual baseline.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Ulcerative colitis - w/ total colectomy, ileoanal pouch, prior
osteomy now reversed, and recent ___ drain placement for
perianal fistula
Lung hemangioma

 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization
 
Physical Exam:
VITALS: ___ 0040 Temp: 98.2 PO BP: 114/67 R Lying HR: 67 
RR:
18 O2 sat: 98% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, very mildly tender to palpation
in LLQ, no rebound or guarding, multiple well healed scars from
prior surgeries, hypoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
RECTAL: visible ___ drain and ___ fistula externally

 
Pertinent Results:
___ 06:30AM BLOOD WBC-12.7* RBC-5.07 Hgb-15.5 Hct-45.6 
MCV-90 MCH-30.6 MCHC-34.0 RDW-12.6 RDWSD-41.8 Plt ___
___ 01:46PM BLOOD WBC-12.9* RBC-5.28 Hgb-16.5 Hct-46.4 
MCV-88 MCH-31.3 MCHC-35.6 RDW-12.8 RDWSD-41.5 Plt ___
___ 01:46PM BLOOD Neuts-84.6* Lymphs-8.2* Monos-5.9 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-10.88* AbsLymp-1.06* 
AbsMono-0.76 AbsEos-0.07 AbsBaso-0.04
___ 06:30AM BLOOD Glucose-82 UreaN-10 Creat-0.9 Na-142 
K-4.4 Cl-102 HCO3-26 AnGap-14
___ 01:46PM BLOOD Glucose-104* UreaN-11 Creat-0.8 Na-142 
K-4.7 Cl-106 HCO3-22 AnGap-14
___ 01:46PM BLOOD ALT-19 AST-18 AlkPhos-64 TotBili-0.6
___ 01:46PM BLOOD Lipase-33
___ 06:30AM BLOOD Calcium-9.5 Phos-2.8 Mg-2.0
___ 01:46PM BLOOD Albumin-4.6
___ 01:54PM BLOOD Lactate-1.4

ct abd pelvis IMPRESSION:  
Post total colectomy with dilated loops of small bowel in the 
central and left lower abdomen with associated mesenteric edema 
and possible transition point in the deep left pelvis.  Findings 
raise concern for early/partial small bowel obstruction possibly 
from adhesions.  No abscess. 

pouch exam: concern for pouchitis with ulcerations noted. 

  

 
Brief Hospital Course:
Mr. ___ is a ___ male with UC s/p
total colectomy, ileoanal pouch, prior ostomy who presents w/
abdominal pain and decreased stool output w/ imaging findings
concerning for early/partial SBO from adhesions, also found to
have pouchitis and small bowel ulcers. 

ACUTE/ACTIVE PROBLEMS:
#Possible partial SBO:
#Abdominal pain with nausea and vomiting:
#h.o ulcerative colitis:
#pouchitis/small bowel ulcerations: 
Patient presented w/ abdominal pain and decreased stool
output/flatus output concerning for obstruction, with imaging 
c/w
possible SBO. GI and CRS consulted. GI performed pouch study 
___ c/w pouchitis and small bowel ulcers also noted. His 
symptoms improved after this study and his diet was successfully 
advanced to a regular low residue diet. No n/v further in 
admission. MRE recommended by GI but this was ok to be performed 
as an outpt given pt's preference to be discharged ___ as he 
felt better.  He will f/u with GI after discharge. GI ok with DC 
as pt was tolerating regular diet. He was discharged with a 
small supply of Tylenol with codeine to take for severe pain and 
advised on proper use and given the opioid safety sheet. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 

 
Discharge Medications:
1.  Acetaminophen w/Codeine 1 TAB PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
take only as directed. 
RX *acetaminophen-codeine 300 mg-30 mg 1 tablet(s) by mouth 
every 6 hours Disp #*10 Tablet Refills:*0 
2.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
history of ulcerative colitis
abdominal pain 
partial bowel obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of abdominal pain with nausea 
and vomiting. You were found to have concern for a partial bowel 
obstruction on CT scan. You had an exam of your pouch that 
revealed "pouchitis" and some ulcers in your small intestine. 
Fortunately, your symptoms improved and your diet was advanced. 
The GI team recommended an "MRE" which can be done as an 
outpatient. In addition, we will send you home with a small 
limited supply of pain medication to take only as needed with 
the goal to stop taking in a few days. Please see the opioid 
education sheet. Do not take with additional acetaminophen, do 
not drive when taking this medication, do not take with other 
sedating meds, keep in a safe location. 
 
Followup Instructions:
___